US04361572
Twenty-seven grams of N-nicotinoyl-2-methoxyaniline was dissolved in 800 ml of 10% hydrous ethanol. To the solution, 5 g of 10% palladium-on-carbon was added and the mixture was hydrogenated at 40° to 50° C. under atmospheric pressure. After 2 mols of hydrogen was introduced over a period of about 6 hours, the reaction was stopped and the catalyst was removed. The liquid reaction mixture was concentrated and the residual oil was purified with column chromatography on silica gel and recrystallized from hydrous methanol to give N-(1,4,5,6-tetrahydronicotinoyl)-2-methoxyaniline having a melting point of 126°-128° C. Yield=60%

reactant | N-nicotinoyl-2-methoxyaniline | Twenty-seven grams | C(C1=CN=CC=C1)(=O)NC1=C(C=CC=C1)OC | C13H12N2O2
reactant | hydrogen | 2 mols | [H][H] | H2
solvent | ethanol | 800 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 5 g | [Pd] | Pd
product | N-(1,4,5,6-tetrahydronicotinoyl)-2-methoxyaniline | Yield=60% | C(C1=CNCCC1)(=O)NC1=C(C=CC=C1)OC | C13H16N2O2
